US08084623B2
Lithium bis(trimethylsilyl)amide (1.0 M in THF, 12.1 mL) was added to a solution of 3-(1-triisopropylsilanyl-1H-indole-5-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (1.90 g, 4.03 mmol) in THF (25 mL) at 0° C. under nitrogen atmosphere. The reaction mixture was stirred at 0° C. for 10 minutes and then benzyl bromide (1.9 mL, 16.12 mmol) was added. The resulting mixture was warmed to room temperature and stirred for 1.5 hours. The reaction was quenched by addition of a saturated aqueous solution of NH4Cl, then diluted with water and extracted with EtOAc. The organic layer was dried over MgSO4, filtered and evaporated under reduced pressure. The residue was purified by flash chromatography (10% to 20% of EtOAc in hexane) to give 1.55 g (69% yield) of 3-benzyl-3-(1-triisopropylsilanyl-1H-indole-5-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester as a white foam.

reactant | Lithium bis(trimethylsilyl)amide | 1.0 M, 12.1 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3-(1-triisopropylsilanyl-1H-indole-5-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 4.03 mmol, 1.90 g | C(C)(C)(C)OC(=O)N1CC(CC1)C(=O)C=1C=C2C=CN(C2=CC1)[Si](C(C)C)(C(C)C)C(C)C | C27H42N2O3Si
reactant | benzyl bromide | 16.12 mmol, 1.9 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 3-benzyl-3-(1-triisopropylsilanyl-1H-indole-5-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.55 g, 69% yield | C(C)(C)(C)OC(=O)N1CC(CC1)(C(=O)C=1C=C2C=CN(C2=CC1)[Si](C(C)C)(C(C)C)C(C)C)CC1=CC=CC=C1 | C34H48N2O3Si
